US08754073B2
57.1 tert-butyl 4-(2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yloxy)-piperidine-1-carboxylate
400 mg tert-butyl 4-[3-(2,2,2-trifluoracetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yloxy]-piperidine-1-carboxylate (see 38.2) are placed in 17 ml of methanol, then a mixture of 151.2 mg potassium carbonate in 3.3 ml of water is added. The reaction mixture is stirred at ambient temperature, until there is no further reaction. The methanol is then spun off. The residue is combined with dichloromethane and water. The organic phase is dried and evaporated to dryness. 310 mg are obtained as an oil.

reactant | tert-butyl 4-[3-(2,2,2-trifluoracetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yloxy]-piperidine-1-carboxylate | 400 mg | FC(C(=O)N1CCC2=C(CC1)C=C(C=C2)OC2CCN(CC2)C(=O)OC(C)(C)C)(F)F | C22H29F3N2O4
reactant | potassium carbonate | 151.2 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 17 ml | CO | CH4O
solvent | water | 3.3 ml | O | H2O
product | tert-butyl 4-(2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yloxy)-piperidine-1-carboxylate | C1CNCCC2=C1C=CC(=C2)OC2CCN(CC2)C(=O)OC(C)(C)C | C20H30N2O3
